* Extracted by KLayout with SG13G2 LVS runset on : 13/03/2026 14:25

.SUBCKT imp_boost_tech GND OTA_VOM OTA_VOP OTA_VINP OTA_VINM VDD VCM_REF
+ VICM_REF BV PHI3 PHI1 VINM VOM VINP VOP PHI4 PHI2
M$1 GND GND GND GND sg13_hv_nmos L=2u W=8u AS=2.72p AD=2.72p PS=18.72u PD=18.72u
M$2 OTA_VOM \$2 GND GND sg13_hv_nmos L=2u W=4u AS=1.36p AD=1.36p PS=9.36u
+ PD=9.36u
M$3 GND \$2 OTA_VOP GND sg13_hv_nmos L=2u W=4u AS=1.36p AD=1.36p PS=9.36u
+ PD=9.36u
M$9 OTA_VINM PHI1 \$55 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$10 \$52 PHI1 OTA_VOP GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$11 \$17 \$17 GND GND sg13_hv_nmos L=0.5u W=1u AS=0.34p AD=0.34p PS=2.68u
+ PD=2.68u
M$12 GND \$17 \$2 GND sg13_hv_nmos L=0.5u W=1u AS=0.34p AD=0.34p PS=2.68u
+ PD=2.68u
M$13 \$68 PHI3 \$56 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$14 \$50 PHI3 OTA_VINM GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$15 VINM PHI1 \$54 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$16 OTA_VINP PHI1 \$58 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$17 \$51 PHI1 OTA_VOM GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$18 OTA_VOP PHI1 VOM GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$19 \$54 PHI3 \$57 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$20 \$49 PHI3 OTA_VINP GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$21 VINP PHI1 \$68 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$22 OTA_VINM PHI2 \$58 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$23 \$52 PHI2 OTA_VOM GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$24 OTA_VOM PHI1 VOP GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$25 \$68 PHI4 \$57 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$26 \$50 PHI4 OTA_VINP GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$27 VINM PHI2 \$68 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$28 OTA_VINP PHI2 \$55 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$29 \$51 PHI2 OTA_VOP GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$30 OTA_VOP PHI2 VOP GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$31 \$54 PHI4 \$56 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$32 \$49 PHI4 OTA_VINM GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$33 VINP PHI2 \$54 GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$34 OTA_VOM PHI2 VOM GND sg13_hv_nmos L=0.45u W=0.3u AS=0.102p AD=0.102p
+ PS=1.28u PD=1.28u
M$35 VDD VDD VDD VDD sg13_hv_pmos L=0.4u W=18u AS=6.12p AD=6.12p PS=38.72u
+ PD=38.72u
M$36 OTA_VOP OTA_VINP \$16 VDD sg13_hv_pmos L=1u W=9u AS=3.06p AD=3.06p
+ PS=19.36u PD=19.36u
M$37 \$16 OTA_VINM OTA_VOM VDD sg13_hv_pmos L=1u W=9u AS=3.06p AD=3.06p
+ PS=19.36u PD=19.36u
M$39 \$24 VCM_REF \$2 VDD sg13_hv_pmos L=0.5u W=4.5u AS=1.53p AD=1.53p
+ PS=10.36u PD=10.36u
M$41 \$24 OTA_VOM \$17 VDD sg13_hv_pmos L=0.5u W=2.25u AS=0.765p AD=0.765p
+ PS=5.18u PD=5.18u
M$42 \$17 OTA_VOP \$24 VDD sg13_hv_pmos L=0.5u W=2.25u AS=0.765p AD=0.765p
+ PS=5.18u PD=5.18u
M$47 \$16 BV VDD VDD sg13_hv_pmos L=1u W=16u AS=5.44p AD=5.44p PS=34.72u
+ PD=34.72u
M$51 VICM_REF OTA_VINM OTA_VINM VDD sg13_hv_pmos L=1u W=50u AS=11p AD=11p
+ PS=62.2u PD=62.2u
M$56 OTA_VINP OTA_VINP VICM_REF VDD sg13_hv_pmos L=1u W=50u AS=11p AD=11p
+ PS=62.2u PD=62.2u
M$61 \$24 BV VDD VDD sg13_hv_pmos L=1u W=16u AS=5.44p AD=5.44p PS=34.72u
+ PD=34.72u
M$65 BV BV VDD VDD sg13_hv_pmos L=1u W=4u AS=1.36p AD=1.36p PS=8.68u PD=8.68u
C$66 \$52 \$58 cap_cmim w=5.7u l=5.7u A=32.49p P=22.8u m=2
C$67 \$51 \$55 cap_cmim w=5.7u l=5.7u A=32.49p P=22.8u m=2
C$68 \$2 GND cap_cmim w=50u l=14u A=700p P=128u m=1
C$69 \$49 \$56 cap_cmim w=26u l=12.8u A=332.8p P=77.6u m=2
C$73 \$50 \$57 cap_cmim w=26u l=12.8u A=332.8p P=77.6u m=2
.ENDS imp_boost_tech
